US07189722B2
Step A. 2-(Methylamino)indane-2-carbonitrile hydrochloride
To a mixture of 2-indanone (20.0 g, 151 mmol) in MeOH (20 mL) was added methylamine hydrochloride (10.2 g, 151 mmol). To the stirred mixture was added H2O (20 mL) and a fine homogenous slurry developed. The reaction mixture was cooled to 0° C. and KCN (9.84 g, 151 mmol) in H2O (20 mL) was added slowly over 30 min, such that the temperature did not exceed 10° C., then stirring was continued at ambient temperature for 18 h. The reaction mixture was extracted with Et2O (250 mL) and the organic extract was washed with brine (50 mL) then dried over MgSO4. HCl (g) was bubbled through the vigorously stirred solution for 10 minutes and a white solid precipitated. The solid was filtered, washed with Et2O, and dried to yield the title compound. MS: m/z=173 (M+1).

reactant | 2-indanone | 151 mmol, 20.0 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | methylamine hydrochloride | 151 mmol, 10.2 g | Cl.CN
reactant | KCN | 151 mmol, 9.84 g | [C-]#N.[K+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | 2-(Methylamino)indane-2-carbonitrile hydrochloride | Cl.CNC1(CC2=CC=CC=C2C1)C#N | InChI=1S/C11H12N2.ClH/c1-13-11(8-12)6-9-4-2-3-5-10(9)7-11;/h2-5,13H,6-7H2,1H3;1H
